US05399460
Example 1A was repeated using triethanolamine (59.6 g), phenothiazine (1 g), methacrylic acid (206 g), and methanesulfonic acid (57 g) in 200 ml p-xylene. Isolation by chromatography over basic alumina gave 120 g (85% yield) of triethanolamine trimethacrylate, which was 99.0% pure.

reactant | triethanolamine | 59.6 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | methacrylic acid | 206 g | C(C(=C)C)(=O)O | C4H6O2
reactant | methanesulfonic acid | 57 g | CS(=O)(=O)O | CH4O3S
solvent | p-xylene | 200 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | triethanolamine trimethacrylate | 120 g, 85% yield | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.N(CCO)(CCO)CCO | InChI=1S/C6H15NO3.3C4H6O2/c8-4-1-7(2-5-9)3-6-10;3*1-3(2)4(5)6/h8-10H,1-6H2;3*1H2,2H3,(H,5,6)
